US08026257B2
4-(((4-(4-Fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-2-methyl-6-(trifluoromethyl)-2H-benzo[d][1,2,3]triazole.
tert-Butyl 4-(4-fluorophenyl)-4-(((2-methyl-6-(trifluoromethyl)-2H-benzo[d][1,2,3]triazol-4-yl)methoxy)methyl)piperidine-1-carboxylate (22 mg, 0.042 mmol) was dissolved in trifluoroacetic acid (25% in dichloromethane, 1 mL) and stirred at room temperature for 30 min. The reaction was concentrated, loaded onto a strong cation exchange cartridge in methanol, and flushed with several volumes of methanol which were discarded. The crude secondary amine was eluted in 2M ammonia and concentrated. The resulting residue was dissolved in acetonitrile (1 mL), cooled to 0° C., and treated with sodium cyanoborohydride (5.3 mg, 0.084 mmol) and formalin (75 μl). After 5 min, the reaction was treated with 1 drop of acetic acid. The ice bath was removed and stirring continued for 1 h. The reaction was diluted with ether and washed with 1M sodium hydroxide. The ethereal was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which was discarded. The product was eluted with 2 M ammonia and concentrated to 13 mg (71%) as a colorless film. 1H-NMR (CDCl3, 500 MHz) δ 8.05 (s, 1H), 7.32 (m, 2H), 7.30 (s, 1H), 6.99 (m, 2H), 4.80 (s, 2H), 4.51 (s, 3H), 3.53 (s, 2H), 2.57 (m, 2H), 2.21 (m, 7H), 2.00 (m, 2H). Mass spec.: 437.08 (MH)+.

reactant | tert-Butyl 4-(4-fluorophenyl)-4-(((2-methyl-6-(trifluoromethyl)-2H-benzo[d][1,2,3]triazol-4-yl)methoxy)methyl)piperidine-1-carboxylate | 0.042 mmol, 22 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC(=CC2=NN(N=C21)C)C(F)(F)F | C26H30F4N4O3
reactant | sodium cyanoborohydride | 0.084 mmol, 5.3 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 75 μl | C=O | CH2O
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | 4-(((4-(4-Fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-2-methyl-6-(trifluoromethyl)-2H-benzo[d][1,2,3]triazole | FC1=CC=C(C=C1)C1(CCN(CC1)C)COCC1=CC(=CC2=NN(N=C21)C)C(F)(F)F | C22H24F4N4O
